US07157487B2
In DMF (8.0 ml) was suspended sodium hydride (60% in oil, 275.2 mg, 6.881 mmol). To the resulting suspension was added methyl indole-3-carboxylate (401.8 mg, 2.294 mmol) at 0° C. under stirring. After stirring for further 45 minutes at the same temperature, isopropyl iodide (0.34 ml, 3.440 mmol) was added to the reaction mixture. Stirring was then conducted for 1.5 hours at 0° C. and for 7 hours at room temperature. Water was added to the reaction mixture to terminate the reaction, followed by extraction with ethyl acetate. The extract was washed successively with 1N HCl and saturated saline, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from hexane-ethyl acetate (3:1, v/v) eluate fractions, methyl 1-isopropylindole-3-carboxylate (387.6 mg, 78%) was obtained as a light yellow oil.

reactant | sodium hydride | 6.881 mmol, 275.2 mg | [H-].[Na+]
reactant | methyl indole-3-carboxylate | 2.294 mmol, 401.8 mg | N1C=C(C2=CC=CC=C12)C(=O)OC | C10H9NO2
reactant | isopropyl iodide | 3.440 mmol, 0.34 ml | C(C)(C)I | C3H7I
reactant | Water | O | H2O
solvent | DMF | 8.0 ml | CN(C)C=O | C3H7NO
product | methyl 1-isopropylindole-3-carboxylate | 387.6 mg, 78% | C(C)(C)N1C=C(C2=CC=CC=C12)C(=O)OC | C13H15NO2
